US09227985B2
Step 3. (4S)-7-(3,5-Dimethylisoxazol-4-yl)-2-oxo-4-pyridin-2-yl-1,2,4,5-tetrahydroimidazo[1,5,4-de][1,4]benzoxazine-9-carbaldehyde
A mixture of (4S)-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-9-vinyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one (1690 mg, 4.51 mmol) in water (7.8 mL) and tetrahydrofuran (104 mL) was treated with sodium metaperiodate (2.90 g, 13.5 mmol) and heated at 60° C. for 1 h. The reaction mixture was diluted with ethyl acetate and washed with water and brine, dried over magnesium sulfate, filtered, and concentrated to give the crude product. Purification by flash column chromatography (50% ethyl acetate/hexanes to 100% ethyl acetate/hexanes) gave the desired product (0.797 g, 47%) as a single enantiomer. LCMS calculated for C20H17N4O4 (M+H)+: m/z=377.1. found: 376.9.

reactant | (4S)-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-9-vinyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one | 4.51 mmol, 1690 mg | CC1=NOC(=C1C1=CC(=C2C=3N([C@H](COC31)C3=NC=CC=C3)C(N2)=O)C=C)C | C21H18N4O3
reactant | sodium metaperiodate | 13.5 mmol, 2.90 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | water | 7.8 mL | O | H2O
solvent | tetrahydrofuran | 104 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4S)-7-(3,5-Dimethylisoxazol-4-yl)-2-oxo-4-pyridin-2-yl-1,2,4,5-tetrahydroimidazo[1,5,4-de][1,4]benzoxazine-9-carbaldehyde | 0.797 g, 47% | CC1=NOC(=C1C1=CC(=C2C=3N([C@H](COC31)C3=NC=CC=C3)C(N2)=O)C=O)C | C20H16N4O4
